US04400383
B. 3-(3,5-cis-Dimethylpiperazino)propyl chloride dihydrochloride
Thionyl chloride (300 g) was slowly added to 3-(3,5-cis-dimethylpiperazino)propanol dihydrochloride (200 g). The reaction was gently refluxed for an hour followed by removal of excess thionyl chloride by vacuum distillation. The resulting solid was washed with several portions of benzene then several portions of ether, m.p. 291°-292°.

reactant | Thionyl chloride | 300 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(3,5-cis-dimethylpiperazino)propanol dihydrochloride | 200 g | Cl.Cl.C[C@@H]1CN(C[C@@H](N1)C)CCCO
product | 3-(3,5-cis-Dimethylpiperazino)propyl chloride dihydrochloride | Cl.Cl.C[C@@H]1CN(C[C@@H](N1)C)CCCCl | InChI=1S/C9H19ClN2.2ClH/c1-8-6-12(5-3-4-10)7-9(2)11-8;;/h8-9,11H,3-7H2,1-2H3;2*1H/t8-,9+;;
